US09315542B2
(S)-4-Methoxybenzyl 4-methyl-2-((S)—N-(((2-methyl-2-(prop-2-yn-1-yloxy)propanoyl)oxy)methyl)-2-(2-morpholinoacetamido)-4-phenylbutanamido)pentanoate
To a light yellow solution of (S)-4-methoxybenzyl 4-methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenylbutanamido)pentanoate (2.16 g. 4.0 mmol) in THF (15 mL) at −50° C. was added KHMDS solution (1 M in THF. 5.0 mL, 5.0 mmol) dropwise maintaining the internal reaction temperature below −50° C. The mixture was stirred for 10 min and a solution of iodomethyl 2-methyl-2-(prop-2-ynyloxy)propanoate (1.58 g, 5.6 mmol) in THF (5.0 mL) was added dropwise. The reaction mixture was allowed to warm to room temperature and stirred for 3 h. The reaction was quenched with methanol (3 mL) and then diluted with ethyl acetate. The resulting mixture was washed with brine and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting oil was purified by flash column chromatography on silica gel (hexanes/ethyl acetate=9:1 to 7:3) to afford compound (major spot, 1.9 g, 68.5% yield) as a colorless oil.

reactant | (S)-4-methoxybenzyl 4-methyl-2-((S)-2-(2-morpholinoacetamido)-4-phenylbutanamido)pentanoate | 4.0 mmol, 2.16 g | CC(C[C@@H](C(=O)OCC1=CC=C(C=C1)OC)NC([C@H](CCC1=CC=CC=C1)NC(CN1CCOCC1)=O)=O)C | C30H41N3O6
reactant | KHMDS | 5.0 mmol, 1 M, 5.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | iodomethyl 2-methyl-2-(prop-2-ynyloxy)propanoate | 5.6 mmol, 1.58 g | CC(C(=O)OCI)(C)OCC#C | C8H11IO3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | (S)-4-Methoxybenzyl 4-methyl-2-((S)—N-(((2-methyl-2-(prop-2-yn-1-yloxy)propanoyl)oxy)methyl)-2-(2-morpholinoacetamido)-4-phenylbutanamido)pentanoate | 68.5% yield | CC(C[C@@H](C(=O)OCC1=CC=C(C=C1)OC)N(C([C@H](CCC1=CC=CC=C1)NC(CN1CCOCC1)=O)=O)COC(C(C)(OCC#C)C)=O)C | C38H51N3O9
